US08080541B2
Intermediate AK: Butyl-[1-(2-fluoro-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine
2-Fluoro-4,6-bis(trifluoromethyl)benzaldehyde (10 g, 38 mmol) was dissolved in 30 mL toluene. p-Toluenesulfonic acid (140 mg, 0.74 mmol) and N-butylamine (2.94 g, 40 mmol) were added. The reaction mixture was refluxed overnight. The mixture was extracted with 2N sodium carbonate solution and ethyl acetate. The combined organic phases were dried on sodium sulfate, filtered and evaporated. The crude material, orange oil (12 g, >100%) was used without further purification.

reactant | 2-Fluoro-4,6-bis(trifluoromethyl)benzaldehyde | 38 mmol, 10 g | FC1=C(C=O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F7O
reactant | p-Toluenesulfonic acid | 0.74 mmol, 140 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-butylamine | 40 mmol, 2.94 g | C(CCC)N | C4H11N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Butyl-[1-(2-fluoro-4,6-bis-trifluoromethyl-phenyl)-methylidene]-amine | C(CCC)N=CC1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)F | C13H12F7N
